US07655666B2
To a solution of N-{6-[5-methyl-2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazol-3-yl]-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl}-methanesulfonamide (140 mg, 0.26 mmol) in dioxane (5 mL) was added a solution of HCl in EtOH (1N, 0.6 mL, 2 equiv). The solution was stirred at 60° C. for 4 h. The solvent was removed in vacuo and the resulting paste was sonicated in 5 mL of DCM. The solid was filtered off, washed with DCM and dried in vacuo to afford N-[6-(5-methyl-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (59 mg, 56%) as a white solid. (ESI-MS: m/z 445.4 [M+CH3CN+H]+, rt 4.16 min)). 1H-NMR (DMSO-d6, 400 MHz) 12.0 (s, 1H), 10.36 (s, 1H), 8.13 (s, 1H), 7.62 (s, 1H), 6.22 (s, 1H), 3.15 (s, 3H), 2.28 (s, 3H).

reactant | N-{6-[5-methyl-2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazol-3-yl]-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl}-methanesulfonamide | 0.26 mmol, 140 mg | CC=1C=C(N(N1)CCOC[Si](C)(C)C)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C20H26F3N5O5SSi
reactant | HCl | Cl | ClH
reactant | EtOH | 1N, 0.6 mL, 2 equiv | CCO | C2H6O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[6-(5-methyl-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 59 mg, 56% | CC=1C=C(NN1)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H12F3N5O4S
